US07399759B2
tert-Butyl 2-pyridylcarbamate N-oxide
tert-Butyl 2-pyridylcarbamate (7.4 g, 38 mmol) and 3-chloroperbenzoic acid (77%, 11.2 g, 50 mmol) were dissolved in ethyl acetate (100 ml), and the mixture was stirred at room temperature for 20 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with methanol-ethyl acetate (1:20, v/v) were collected and concentrated to give the titled compound (7.6 g, 95%).

reactant | tert-Butyl 2-pyridylcarbamate | 38 mmol, 7.4 g | N1=C(C=CC=C1)NC(OC(C)(C)C)=O | C10H14N2O2
reactant | 3-chloroperbenzoic acid | 50 mmol, 11.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 2-pyridylcarbamate N-oxide | 7.6 g, 95% | N1=C(C=CC=C1)[NH+](C(OC(C)(C)C)=O)[O-] | C10H14N2O3
